US07435455B2
Synthesis of 6-(4-(4-propylcyclohexyl)phenyl)-3,4-dihydrocoumarin (No. 60)
4-(4-propylcyclohexyl)phenylboronic acid (1.3 g), 6-bromo-3,4-dihydrocoumarin (1.0 g), potassium carbonate (1.2 g), tetrakistriphenylphosphine-palladium (51 mg), and tetrabutylammonium bromide (10 mg) were suspended in DME (10 ml), and the suspension was stirred under reflux by heating for 3 hours. After completion of the reaction, the reaction mixture was added in ice water and extracted with toluene. An organic layer was washed with water and then dried over anhydrous magnesium sulfate. The solution was concentrated in vacuo and then subjected to isolation and purification by silica gel column chromatography, thereby obtaining a titled compound (500 mg). As a result of a variety of instrumental analyses, it was confirmed that this was the titled compound.

reactant | 4-(4-propylcyclohexyl)phenylboronic acid | 1.3 g | C(CC)C1CCC(CC1)C1=CC=C(C=C1)B(O)O | C15H23BO2
reactant | 6-bromo-3,4-dihydrocoumarin | 1.0 g | BrC=1C=C2CCC(OC2=CC1)=O | C9H7BrO2
reactant | potassium carbonate | 1.2 g | C([O-])([O-])=O.[K+].[K+]
catalyst | tetrabutylammonium bromide | 10 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DME | 10 ml | COCCOC | C4H10O2
catalyst | tetrakistriphenylphosphine-palladium | 51 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-(4-(4-propylcyclohexyl)phenyl)-3,4-dihydrocoumarin | 500 mg | C(CC)C1CCC(CC1)C1=CC=C(C=C1)C=1C=C2CCC(OC2=CC1)=O | C24H28O2
